US04863236
150 g (1 mol) of dimethyl α-fluoromalonate (see Journal of Fluorine Chemistry 25 (1984), 203-212) are added dropwise to a mixture of 96 g of a 35 percent strength by weight aqueous solution of formaldehyde (1.1 mol) and 10 g (0.1 mol) of potassium bicarbonate at a temperature of 25° C. in the course of one hour. The reaction solution is then mixed with four times the volume of a saturated aqueous ammonium chloride solution and the mixture is extracted three times with 150 ml of methylene chloride each time. The combined extraction solutions are dried over sodium sulfate. After evaporation of the methylene chloride, dimethyl α-hydroxymethyl-α-fluoromalonate is obtained as a colorless solid.

reactant | dimethyl α-fluoromalonate | 1 mol, 150 g | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | formaldehyde | 1.1 mol | C=O | CH2O
reactant | potassium bicarbonate | 0.1 mol, 10 g | C([O-])(O)=O.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
product | dimethyl α-hydroxymethyl-α-fluoromalonate | OCC(C(=O)OC)(C(=O)OC)F | C6H9FO5
